US07923561B2
rac-3,5-Difluoro-N-[2-(1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=466.1 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonyl chloride and rac-1,2,3,4-tetrahydro-1-naphthylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | rac-1,2,3,4-tetrahydro-1-naphthylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | rac-3,5-Difluoro-N-[2-(1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CCCC2=CC=CC=C12 | C25H21F2N3O2S
